US05409956
Methyl(5-acetoxyindan-2-yl)acetate:
11.0 g (47.0 mmol) of methyl(5-acetylindan-2-yl)acetate was dissolved in 200 ml of methylene chloride, to which was added 14.6 g (67 mmol) of m-chloroperbenzoic acid and stirred for 4 hours at room temperature, followed by refluxing for 17 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate and water in this order, dried and then the solvent was removed. The residue was purified by silica gel column chromatography (chloroform) to obtain 11.3 g of an oily product. Yield: 97%

reactant | methyl(5-acetylindan-2-yl)acetate | 47.0 mmol, 11.0 g | COC(CC1CC2=CC=C(C=C2C1)C(C)=O)=O | C14H16O3
reactant | m-chloroperbenzoic acid | 67 mmol, 14.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Methyl(5-acetoxyindan-2-yl)acetate | 11.3 g, Yield: 97% | COC(CC1CC2=CC=C(C=C2C1)OC(C)=O)=O | C14H16O4
